US07863269B2
20a) Ethyl 2-hydroxy-6-methylisonicotinate
20.0 g (130.6 mmol) of 2-hydroxy-6-methylisonicotinic acid were dissolved in 200 ml of ethanol and treated with 20 ml of concentrated H2SO4. After the reaction mixture had been refluxed for two hours, it was freed from the solvent. The residue was taken up in saturated NaHCO3 solution and extracted three times with DCM. The combined organic phases were dried with Na2SO4 and concentrated, 20.1 g of the title compound being isolated.

reactant | 2-hydroxy-6-methylisonicotinic acid | 130.6 mmol, 20.0 g | OC=1C=C(C(=O)O)C=C(N1)C | C7H7NO3
reactant | H2SO4 | 20 ml | OS(=O)(=O)O | H2O4S
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | Ethyl 2-hydroxy-6-methylisonicotinate | 20.1 g | OC=1C=C(C(=O)OCC)C=C(N1)C | C9H11NO3
